US06716987B1
2-Phenylaminocarbonyl-7-methoxybenzofuran (Compound IIbg)
Substantially the same procedure as in Step A of Reference Example 58 was repeated using 7-methoxybenzofuran-2-carbonyl chloride and aniline to give Compound IIbg (13.0 g, 68.2%) as a yellowish white solid.

reactant | 7-methoxybenzofuran-2-carbonyl chloride | COC1=CC=CC=2C=C(OC21)C(=O)Cl | C10H7ClO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2-Phenylaminocarbonyl-7-methoxybenzofuran | C1(=CC=CC=C1)NC(=O)C=1OC2=C(C1)C=CC=C2OC | C16H13NO3
